US09126931B2
2-(4-Ethyl-3-iodophenyl)-2-methylpropanoic acid
2-(4-Ethylphenyl)-2-methylpropanoic acid (58.1 g, 302.2 mmol) was dissolved in acetic acid (175 ml), added with N-iodosuccinimide (71.4 g, 317.3 mmol, 1.05 eq.) and conc. sulfuric acid (75 ml) at 0° C. Thereafter, the mixture was stirred at room temperature for 2 hrs. After cooling the reaction solution to 0° C., 10% aqueous solution of sodium hydrogen sulfite (100 ml) was added and the mixture was stirred for 1 hr. H2O (450 ml) was added to the mixture and the precipitated solid was filtered to obtain the title compound as a crude product. Ethanol (150 ml) and 10% aqueous solution of sodium hydrogen sulfite (50 ml) were added to the crude product, and the mixture was dissolved under heating at 50° C. After confirming the dissolution, the solution was cooled to room temperature, added with H2O (300 ml), and then stirred at 0° C. for 1 hr. The precipitated solid was filtered to obtain the title compound (95.8 g, 99%).

reactant | 2-(4-Ethylphenyl)-2-methylpropanoic acid | 302.2 mmol, 58.1 g | C(C)C1=CC=C(C=C1)C(C(=O)O)(C)C | C12H16O2
reactant | N-iodosuccinimide | 317.3 mmol, 71.4 g, 1.05 eq. | IN1C(CCC1=O)=O | C4H4INO2
reactant | sulfuric acid | 75 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydrogen sulfite | 100 ml | S(=O)(O)[O-].[Na+]
solvent | acetic acid | 175 ml | C(C)(=O)O | C2H4O2
solvent | H2O | 450 ml | O | H2O
product | 2-(4-Ethyl-3-iodophenyl)-2-methylpropanoic acid | C(C)C1=C(C=C(C=C1)C(C(=O)O)(C)C)I | C12H15IO2
